US07632840B2
4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde was coupled with 4-aminotetrahydro-2H-pyran-4-carboxylic acid using an analogous method to that described for the equivalent step in Example 1 to give 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]tetrahydro-2H-pyran-4-carboxylic acid; 1H NMR Spectrum: (DMSO-d6) 1.62-1.74 (m, 2H), 1.92-2.03 (m, 2H), 3.46-3.56 (m, 2H), 3.76 (s, 2H), 3.76-3.85 (m, 2H), 3.94 (s, 3H), 7.18 (s, 1H), 7.23-7.31 (m, 1H), 7.43-7.57 (m, 2H), 8.38 (s, 1H), 8.42 (s, 1H), 9.81 (brs, 1H). Mass Spectrum: (M+H)+ 461.

reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)C=O)OC)C=CC1)F | C16H11ClFN3O2
reactant | 4-aminotetrahydro-2H-pyran-4-carboxylic acid | NC1(CCOCC1)C(=O)O | C6H11NO3
product | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]tetrahydro-2H-pyran-4-carboxylic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNC1(CCOCC1)C(=O)O)OC)F | C22H22ClFN4O4
